US04296114
3,4-Dihydro-2-ethoxy-4-(4-methylphenyl)-3-oxopyrido[2,3-b]pyrazine
Preparation as in Example 26 but using 2-chloro-3,4-dihydro-4-(4-methylphenyl)-3-oxopyrido[2,3-b]pyrazine and sodium ethoxide in ethanol gave the title compound which was identified by NMR Delta 1.50 (t) 3H, delta 2.43 (s) 3H, delta 4.59 (q) 2H, delta 7.05-7.45 (m) 5H, delta 7.91 (q) 1H, delta 8.27 (q) 1H.

reactant | 2-chloro-3,4-dihydro-4-(4-methylphenyl)-3-oxopyrido[2,3-b]pyrazine | ClC1=NC2=C(N(C1=O)C1=CC=C(C=C1)C)N=CC=C2 | C14H10ClN3O
reactant | sodium ethoxide | [O-]CC.[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 3,4-Dihydro-2-ethoxy-4-(4-methylphenyl)-3-oxopyrido[2,3-b]pyrazine | C(C)OC1=NC2=C(N(C1=O)C1=CC=C(C=C1)C)N=CC=C2 | C16H15N3O2
